US07608639B2
3-{4-[3-(2-Benzoyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid
The title compound is prepared by reacting the compound of 3-[4-(3-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester with (2-hydroxy-phenyl)-phenyl-methanone as in Example 18 to afford 0.020 g (14%). 1H NMR (400 MHz, CDCl3); HRMS (ES+) m/z mass calculated for C29H24O5 453.1702, found 453.1699.

reactant | 3-[4-(3-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)Br)C)=O | C17H17BrO3
reactant | (2-hydroxy-phenyl)-phenyl-methanone | OC1=C(C=CC=C1)C(=O)C1=CC=CC=C1 | C13H10O2
product | 3-{4-[3-(2-Benzoyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid | C(C1=CC=CC=C1)(=O)C1=C(OC=2C=C(OC3=CC(=C(C=C3)CCC(=O)O)C)C=CC2)C=CC=C1 | C29H24O5
